US06855710B2
b) 3-[1-methoxy-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone
6.3 g (22 mmol) of diethyl [methoxy-(4-methoxyphenyl)-methyl]-phosphonate are dissolved in 40 ml of DMF under a nitrogen atmosphere. 5.1 g (45 mmol) of potassium tert.butoxide are added batchwise at −40° C. and the mixture is then stirred for another 30 minutes at −10° C. Then 3.84 g (20 mmol) of 5-nitroisatine are added. The mixture is stirred for 1 hour at ambient temperature and then poured onto ice water containing 20 ml of saturated potassium hydrogen sulphate solution. The precipitate is suction filtered and chromatographed over silica gel (dichloromethane/methanol=10:1).

reactant | diethyl [methoxy-(4-methoxyphenyl)-methyl]-phosphonate | 22 mmol, 6.3 g | COC(C1=CC=C(C=C1)OC)P(OCC)(OCC)=O | C13H21O5P
reactant | potassium tert.butoxide | 45 mmol, 5.1 g | CC(C)([O-])C.[K+]
reactant | 5-nitroisatine | 20 mmol, 3.84 g | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=O | C8H4N2O4
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-[1-methoxy-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone | COC(C1=CC=C(C=C1)OC)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O5
